US05855812
Preparation of 5-Heptyloxy-2-[4-(3-(2-(2 -(tetrafluoroethoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)propyloxy)phenyl]pyrimidine
Using essentially the procedure of Comparative Example A, the title compound was prepared by combining 3-(2-(2-(tetrafluoroethoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)-l-bromopropane (5.1 g, 38.5 mmol), 5 -heptyloxy-2-(4-hydroxyphenyl)pyrimidine (3 g, 11.0 mmol), potassium carbonate (1.6 g, 12.7 mmol), and acetonitrile (58 mL). The resulting crude product was isolated and purified essentially as in Comparative Example A to yield 5.1 g.

reactant | 3-(2-(2-(tetrafluoroethoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)-l-bromopropane | 38.5 mmol, 5.1 g | FC(C(F)(F)F)OC(C(OC(COCCCBr)(F)F)(F)F)(F)F | C9H9BrF10O3
reactant | 5 -heptyloxy-2-(4-hydroxyphenyl)pyrimidine | 11.0 mmol, 3 g | C(CCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C17H22N2O2
reactant | potassium carbonate | 12.7 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 58 mL | C(C)#N | C2H3N
product | 5-Heptyloxy-2-[4-(3-(2-(2 -(tetrafluoroethoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)propyloxy)phenyl]pyrimidine | C(CCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOCC(F)(F)OC(C(OC(C(F)(F)F)F)(F)F)(F)F | C26H30F10N2O5
